US04076709
52.1 g. of phosphorus pentachloride are dissolved in 600 ml. of absolute carbon tetrachloride and heated to boiling, whereupon a solution of 15.8 g. of 3-hydroxy-2-methoxycarbonyl-thiophene in 200 ml. of carbon tetrachloride is added dropwise during 3 hours. The mixture is boiled to reflux for 13 hours, the carbon tetrachloride is distilled off and the mixture is evaporated almost to dryness in vacuo. 450 Ml. of water are added dropwise while cooling, whereupon the mixture is heated to boiling and then allowed to cool. The resulting precipitate is filtered off under suction and boiled up with 10 g. of active carbon in a solution of 25 g. of sodium bicarbonate. The active carbon is then filtered off under suction and the cooled solution is acidified with hydrochloric acid. There is obtained 3-chlorothiophene-2-carboxylic acid of melting point 185°-186° C.

reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 3-hydroxy-2-methoxycarbonyl-thiophene | OC1=C(SC=C1)C(=O)OC | C6H6O3S
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-chlorothiophene-2-carboxylic acid | ClC1=C(SC=C1)C(=O)O | C5H3ClO2S
